Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],3.72907591626
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.67776780681
[C:2]=[C:5]([H:6])[H:7].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7],1.2970037236
[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.94091561721
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])=[C:8]=[O:9],1.83711883891
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:4],1.85268431377
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12],-4.610140755340001
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:6],4.64400007204
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87300488608
[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.4756511427400003
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8]>>[C:2](#[C:3][C:4]([H:5])[H:6])[O:7][H:8].[O:1],5.64177904121
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.17491131875
[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[H:1][C:2]#[C:3].[O:4]=[C:5][O:6][H:7],2.55014604036
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.12100638027
[C:4]([H:5])=[C:6]([H:7])[O:8][O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][O:9][H:10],-6.3893990478
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8][H:9],0.29935076334000005
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.07014644873
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.66434191708
[H:1][O:2]/[C:3]=[C:4](/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.88145137232
[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[H:12])([H:7])[H:8]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.706483234609999
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.171784672559999
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-6.01528149913
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.592254325
[H:4].[O:1][C:2]([O:3])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.75558923348
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-1.43052041914
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],5.70450584515
[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-7.96838749029
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],4.85957659383
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.39194694832
[C:1]([C:2]([H:6])([H:7])[H:8])[H:4].[C:3](#[C:5])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.96848231374
